US07939528B2
N-{[4-(1H-Benzimidazol-5-yloxy)-3-(methyloxy)phenyl]methyl}-2,3-dihydro-1H-inden-2-amine was prepared using a mixture of 4-(1H-benzimidazol-5-yloxy)-3-(methyloxy)benzaldehyde and 5-{[4-[bis(methyloxy)methyl]-2-(methyloxy)phenyl]oxy}-1H-benzimidazole and the procedure of General method 1, step 5 where 2-aminoindane is the amine.

reactant | 4-(1H-benzimidazol-5-yloxy)-3-(methyloxy)benzaldehyde | N1C=NC2=C1C=CC(=C2)OC2=C(C=C(C=O)C=C2)OC | C15H12N2O3
reactant | 5-{[4-[bis(methyloxy)methyl]-2-(methyloxy)phenyl]oxy}-1H-benzimidazole | COC(C1=CC(=C(C=C1)OC1=CC2=C(NC=N2)C=C1)OC)OC | C17H18N2O4
reactant | 2-aminoindane | NC1CC2=CC=CC=C2C1 | C9H11N
product | N-{[4-(1H-Benzimidazol-5-yloxy)-3-(methyloxy)phenyl]methyl}-2,3-dihydro-1H-inden-2-amine | N1C=NC2=C1C=CC(=C2)OC2=C(C=C(C=C2)CNC2CC1=CC=CC=C1C2)OC | C24H23N3O2
